US04211783
Preparation of 4-[13-(4-chlorophenyl)-12-tridecynylamino]benzoic acid
A 4 g. sample of ethyl 4-[13-(4-chlorophenyl)-12-tridecylamino]benzoate is hydrolyzed with 1.6 g. 85% potassium hydroxide in 60 ml. 95% ethanol by refluxing the solution for 5 hours. The solution is cooled, diluted with 100 ml. water and acidified to pH 4.5 with 37% hydrochloric acid. The precipitate is collected, dried in vacuo and crystallized from acetone to yield the title compound as a white powder.

reactant | ethyl 4-[13-(4-chlorophenyl)-12-tridecylamino]benzoate | ClC1=CC=C(C=C1)CC(CCCCCCCCCCC)NC1=CC=C(C(=O)OCC)C=C1 | C28H40ClNO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[13-(4-chlorophenyl)-12-tridecynylamino]benzoic acid | ClC1=CC=C(C=C1)C#CCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C26H32ClNO2
